US06936619B2
tert-Butyl 5-hydroxy-3,4-dihydro-2(1H)-isoquinolinecarboxylate
A solution of di-tert-butyl dicarbonate (66.75 g, 0.31 mol) was suspended in 1M sodium hydroxide solution (200 mL) and 1,4-dioxane (300 mL) under nitrogen gas. A solution of 1,2,3,4-tetrahydro-5-isoquinolinol (20.0 g, 134 mmol) in 1,4-dioxane (100 mL) was added and the resulting suspension stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue partitioned between IM hydrochloric acid (300 mL) and dichloromethane (500 mL). The aqueous phase was re-extracted with dichloromethane (200 mL). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to give an orange oil. The crude product was dissolved in 1,4-dioxane (200 mL) and methanol (100 mL) under nitrogen gas followed by the addition of 2N sodium hydroxide solution (150 mL) and the resulting cloudy mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue partitioned between ethyl acetate (600 mL) and water (200 mL). The organic phase was separated, washed with 2N hydrochloric acid (200 mL), brine (250 mL) then dried (MgSO4) and concentrated under reduced pressure to give a tan solid. The solid was suspended in dichloromethane (150 mL) then pentane added (800 mL) and filtered to give the title compound as a white solid (32.04 g, 84%).

reactant | di-tert-butyl dicarbonate | 0.31 mol, 66.75 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1,2,3,4-tetrahydro-5-isoquinolinol | 134 mmol, 20.0 g | C1NCCC=2C(=CC=CC12)O | C9H11NO
reactant | methanol | 100 mL | CO | CH4O
reactant | pentane | CCCCC | C5H12
solvent | sodium hydroxide | 1M, 200 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2N, 150 mL | [OH-].[Na+]
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 5-hydroxy-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 32.04 g, 84% | OC1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C14H19NO3
